### PR TITLE
[Merged by Bors] - feat: Polynomial FLT

### PR DESCRIPTION
**Pull request by seewoo5**
Prove the polynomial FLT, using Mason-Stothers theorem #15706. More generally, prove non-solvability of Fermat-Catalan equation: $ux^p + vx^q + wz^r = 0$ where $u, v, w \in k^\times$ are units and $p, q, r \ge 3$ with $pq + qr + rp \le pqr$.

Also derive the `IsCoprime b c` and `IsCoprime c a` assumptions from the `IsCoprime a b` and `a + b + c = 0` ones in  `Polynomial.abc`.

---

- [x] depends on:  #19048
- [x] depends on: #19133
- [x] depends on: #19875
- [x] depends on: #20143 
- [x] depends on: #20190 
- [x] depends on: #20191 
- [x] depends on: #20468 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by seewoo5** [comment]
@jcpaik Could you help me to remove `sorry`s? Also, `flt_catalan_aux` haven't fixed yet.

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 1]
```diff
@@ -0,0 +1,336 @@
...
+    chn chn chn ha hb hc hab one_ne_zero one_ne_zero (neg_ne_zero.mpr one_ne_zero) heq
+  have eq_lhs : n * n + n * n + n * n = 3 * n * n := by ring_nf
+  rw [eq_lhs]; rw [mul_assoc, mul_assoc]
+  apply Nat.mul_le_mul_right (n * n); exact hn
+
+theorem fermatLastTheoremPolynomial {n : ℕ} (hn : 3 ≤ n) (chn : ¬ringChar k ∣ n):
+    FermatLastTheoremWith' k[X] n := by
+  rw [FermatLastTheoremWith']
+  intros a b c ha hb hc heq
+  rcases gcd_dvd_left a b with ⟨a', eq_a⟩
```
Comment (seewoo5) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:300]: @jcpaik Currently this line gives following errors: do you have any guess?
```
Messages (2)
Polynomial.lean:300:9
failed to synthesize
  GCDMonoid k[X]
Additional diagnostic information may be available using the `set_option diagnostics true` command.
Polynomial.lean:300:31
rcases tactic failed: x✝ : ?m.87687 is not an inductive datatype
```

Comment (jcpaik) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:300]: Maybe try importing `Mathlib.RingTheory.EuclideanDomain`? Or `Mathlib.RingTheory.Polynomial.Content`? The code needs a "GCDMonoid instance", so I searched it at leansearch.net
The latter path has a NormalizedGCDMonoid instance

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 2]
```diff
@@ -0,0 +1,337 @@
...
+
+variable {k : Type _} [Field k]
+variable {R : Type _} [CommRing R] [IsDomain R] [NormalizationMonoid R]
+  [UniqueFactorizationMonoid R]
+
+private lemma Ne.isUnit_C {u : k} (hu : u ≠ 0) : IsUnit (C u) :=
+  Polynomial.isUnit_C.mpr hu.isUnit
+
+-- Multiplying units preserve coprimality
+private lemma isCoprime_mul_units_left {a b : k[X]} {u v : k} (hu : u ≠ 0) (hv : v ≠ 0) :
```
Comment (seewoo5) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:38]: @jcpaik It seems that if we replace `u ≠ 0` into `IsUnit u` for auxiliary lemmas (not main theorems) then proofs could be a bit simpler (for main theorems, keep as nonzero assumption and use `isUnit_C` for example). How do you think? At least for this `isCoprime_mul_units_left`, I'll use the unit version PR.

Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/Polynomial.lean]: I found that some part of the proofs use both of $u \ne 0$ and $u$ being a unit (to be precise, `C u` being nonzero or unit), so replacing this does not make proofs significantly shorter, so I only modified a few. (`Ne.isUnit_C` is useful enough)

**Comment by seewoo5** [comment]
@YaelDillies Could you review this?

**Comment by YaelDillies** [comment]
Sorry, I really don't have time right now 😦 Please ask again in ten days if it hasn't moved

File: Mathlib/RingTheory/Radical.lean [hunk 3]
```diff
@@ -83,14 +83,14 @@ theorem radical_eq_of_associated {a b : M} (h : Associated a b) : radical a = ra
   unfold radical
   rw [h.primeFactors_eq]
 
-theorem radical_unit_eq_one {a : M} (h : IsUnit a) : radical a = 1 :=
+theorem radical_isUnit_eq {a : M} (h : IsUnit a) : radical a = 1 :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Radical.lean:86]:
```suggestion
theorem radical_of_isUnit {a : M} (h : IsUnit a) : radical a = 1 :=
```

File: Mathlib/RingTheory/Radical.lean [hunk 4]
```diff
@@ -83,14 +83,14 @@ theorem radical_eq_of_associated {a b : M} (h : Associated a b) : radical a = ra
...
   (radical_eq_of_associated (associated_one_iff_isUnit.mpr h)).trans radical_one_eq
 
-theorem radical_unit_mul {u : Mˣ} {a : M} : radical ((↑u : M) * a) = radical a :=
-  radical_eq_of_associated (associated_unit_mul_left _ _ u.isUnit)
+theorem radical_isUnit_mul_left {a u : M} (h : IsUnit u) : radical (u * a) = radical a :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Radical.lean:89]:
```suggestion
theorem radical_mul_of_isUnit_left {a u : M} (h : IsUnit u) : radical (u * a) = radical a :=
```

File: Mathlib/RingTheory/Radical.lean [hunk 5]
```diff
@@ -83,14 +83,14 @@ theorem radical_eq_of_associated {a b : M} (h : Associated a b) : radical a = ra
...
+  radical_eq_of_associated (associated_unit_mul_left _ _ h)
 
-theorem radical_mul_unit {u : Mˣ} {a : M} : radical (a * (↑u : M)) = radical a :=
-  radical_eq_of_associated (associated_mul_unit_left _ _ u.isUnit)
+theorem radical_isUnit_mul_right {a u : M} (h : IsUnit u) : radical (a * u) = radical a :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Radical.lean:92]:
```suggestion
theorem radical_mul_of_isUnit_right {a u : M} (h : IsUnit u) : radical (a * u) = radical a :=
```

File: Mathlib/NumberTheory/FLT/MasonStothers.lean
Comment (YaelDillies) [inline Mathlib/NumberTheory/FLT/MasonStothers.lean:1]: Could you make this into a separate lemma please?

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR! Very nice result

File: Mathlib/NumberTheory/FLT/MasonStothers.lean
Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/MasonStothers.lean:1]: Here it is! #19875

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 6]
```diff
@@ -0,0 +1,333 @@
...
+and `u, v, w` are nonzero elements in `k`.
+
+The proof uses Mason-Stothers theorem (Polynomial ABC theorem) and infinite descent
+(for characteristic p case).
+-/
+
+open Polynomial UniqueFactorizationMonoid UniqueFactorizationDomain
+
+variable {k : Type _} [Field k]
+variable {R : Type _} [CommRing R] [IsDomain R] [NormalizationMonoid R]
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:31]:
```suggestion
variable {k R : Type*} [Field k] [CommRing R] [IsDomain R] [NormalizationMonoid R]
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 7]
```diff
@@ -0,0 +1,332 @@
...
+    rcases hderiv with ⟨da, -, -⟩
+    have czk : CharZero k := by
+      apply charZero_of_inj_zero
+      intro n
+      rw [ringChar.spec, ch0]
+      exact zero_dvd_iff.mp
+    rw [eq_C_of_derivative_eq_zero da]
+    exact natDegree_C _
+  -- characteristic p > 0
+  · set d := a.natDegree with eq_d; clear_value d
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:212]: I think `generalize eq_d : a.natDegree = d` is the idiomatic way to do this (but then `eq_d` is the other way around so you have to `rw [\l eq_d]` in a couple of cases where you had `rw [eq_d]`)

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 8]
```diff
@@ -0,0 +1,332 @@
...
+    -- set up infinite descent
+    -- strong induct on `d := a.natDegree`
+    revert ha hb hc hab heq
+    revert eq_d
+    revert a b c
+    induction' d using Nat.case_strong_induction_on with d ih_d
+    · intros; solve_by_elim
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:219]: This isn't idiomatic. Firstly I think `induction'` is now discouraged and one should use Lean 4's `induction`. Secondly `induction ... generalizing` is supposed to be used instead of the `revert...intros` hack.

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 9]
```diff
@@ -0,0 +1,332 @@
...
+    · intros a b c eq_d heq ha hb hc hab
+      -- have derivatives of `a, b, c` zero
+      have hderiv := flt_catalan_deriv
+        hp hq hr hineq chp chq chr ha hb hc hab hu hv hw heq
+      rcases hderiv with ⟨ad, bd, cd⟩
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:224]:
```suggestion
      obtain ⟨ad, bd, cd⟩ := flt_catalan_deriv
        hp hq hr hineq chp chq chr ha hb hc hab hu hv hw heq
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 10]
```diff
@@ -0,0 +1,332 @@
...
+      -- find contracts `ca, cb, cc` so that `a(k) = ca(k^ch)`
+      rcases find_contract ha ad chn0 with ⟨ca, ca_nz, eq_a, eq_deg_a⟩
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:226]: I think `obtain` is nicer than `rcases` because `obtain` is an English word and `rcases` isn't.

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 11]
```diff
@@ -0,0 +1,332 @@
...
+      rcases find_contract hb bd chn0 with ⟨cb, cb_nz, eq_b, eq_deg_b⟩
+      rcases find_contract hc cd chn0 with ⟨cc, cc_nz, eq_c, eq_deg_c⟩
+      set ch := ringChar k
+      suffices hca : ca.natDegree = 0 by
+        rw [eq_d, eq_deg_a, hca, zero_mul]
+      by_contra hnca; apply hnca
+      apply ih_d _ _ rfl _ ca_nz cb_nz cc_nz <;> clear ih_d <;> try rfl
+      · apply is_coprime_of_expand chn0
+        rw [← eq_a, ← eq_b]
+        exact hab
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:236]:
```suggestion
        rwa [← eq_a, ← eq_b]
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 12]
```diff
@@ -0,0 +1,332 @@
...
+      · have _ : ch ≠ 1 := CharP.ringChar_ne_one
+        have hch2 : 2 ≤ ch := by omega
+        rw [← add_le_add_iff_right 1, eq_d, eq_deg_a]
+        refine le_trans ?_ (Nat.mul_le_mul_left _ hch2)
+        omega
+      · rw [eq_a, eq_b, eq_c, ← expand_C ch u, ← expand_C ch v, ← expand_C ch w] at heq
+        simp_rw [← map_pow, ← map_mul, ← map_add] at heq
+        rw [Polynomial.expand_eq_zero (zero_lt_iff.mpr chn0)] at heq
+        exact heq
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:245]:
```suggestion
        rwa [Polynomial.expand_eq_zero (zero_lt_iff.mpr chn0)] at heq
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 13]
```diff
@@ -0,0 +1,332 @@
...
+    (chp : ¬ringChar k ∣ p) (chq : ¬ringChar k ∣ q) (chr : ¬ringChar k ∣ r)
+    {a b c : k[X]} (ha : a ≠ 0) (hb : b ≠ 0) (hc : c ≠ 0) (hab : IsCoprime a b)
+    {u v w : k} (hu : u ≠ 0) (hv : v ≠ 0) (hw : w ≠ 0)
+    (heq : C u * a ^ p + C v * b ^ q + C w * c ^ r = 0) :
+    a.natDegree = 0 ∧ b.natDegree = 0 ∧ c.natDegree = 0 := by
+  -- WLOG argument: essentially three times flt_catalan_aux
+  have hbc : IsCoprime b c := by
+    apply rot_coprime heq hab <;> assumption
+  have heq' : C v * b ^ q + C w * c ^ r + C u * a ^ p = 0 := by
+    rw [add_rotate] at heq; exact heq
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:260]:
```suggestion
    rwa [add_rotate] at heq
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 14]
```diff
@@ -0,0 +1,332 @@
...
+Take p = q = r = n and u = v = 1, w = -1.
+-/
+theorem Polynomial.flt
+    {n : ℕ} (hn : 3 ≤ n) (chn : ¬ringChar k ∣ n)
+    {a b c : k[X]} (ha : a ≠ 0) (hb : b ≠ 0) (hc : c ≠ 0)
+    (hab : IsCoprime a b) (heq : a ^ n + b ^ n = c ^ n) :
+    a.natDegree = 0 ∧ b.natDegree = 0 ∧ c.natDegree = 0 := by
+  have hn' : 0 < n := by linarith
+  rw [← sub_eq_zero, ← one_mul (a ^ n), ← one_mul (b ^ n), ← one_mul (c ^ n), sub_eq_add_neg, ←
+    neg_mul] at heq
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:282]:
```suggestion
  rw [← sub_eq_zero, ← one_mul (a ^ n), ← one_mul (b ^ n), ← one_mul (c ^ n), sub_eq_add_neg,
    ← neg_mul] at heq
```
Probably best to keep the arrow on the same line

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 15]
```diff
@@ -0,0 +1,332 @@
...
+  have hone : (1 : k[X]) = C 1 := by rfl
+  have hneg_one : (-1 : k[X]) = C (-1) := by simp only [map_neg, map_one]
+  simp_rw [hneg_one, hone] at heq
+  apply flt_catalan hn' hn' hn' _
+    chn chn chn ha hb hc hab one_ne_zero one_ne_zero (neg_ne_zero.mpr one_ne_zero) heq
+  have eq_lhs : n * n + n * n + n * n = 3 * n * n := by ring_nf
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:288]:
```suggestion
  have eq_lhs : n * n + n * n + n * n = 3 * n * n := by ring
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 16]
```diff
@@ -0,0 +1,332 @@
...
+  rw [eq_lhs]; rw [mul_assoc, mul_assoc]
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:289]:
```suggestion
  rw [eq_lhs, mul_assoc, mul_assoc]
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 17]
```diff
@@ -0,0 +1,332 @@
...
+  apply Nat.mul_le_mul_right (n * n); exact hn
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:290]:
```suggestion
  exact Nat.mul_le_mul_right (n * n) hn
```
I don't like semicolons :-) I think the style is "different tactics on different lines" but here you don't need two tactics.

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 18]
```diff
@@ -0,0 +1,332 @@
...
+    rcases apd with (nz | powz) | goal
+    · rw [← C_eq_natCast, C_eq_zero] at nz
+      exact (chn (ringChar.dvd nz)).elim
+    · have az : a = 0 := pow_eq_zero powz
+      rw [az, map_zero]
+    · exact goal
+  · intro hd
+    rw [derivative_pow, hd, MulZeroClass.mul_zero]
+
+private lemma mul_eq_zero_left_iff
```
[the remark this answers is not in the document]
Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:86]: I wasn't sure which of the `private lemma`s here needs to go to mathlib or stay here, but as you said maybe most of them would. This was definitely one of them to be, but also a thing that I couldn't find where to put.

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 19]
```diff
@@ -0,0 +1,332 @@
...
+      have hpq := Nat.mul_pos hp hq
+      have hqr := Nat.mul_pos hq hr
+      have hrp := Nat.mul_pos hr hp
+      refine (Nat.add_lt_add (Nat.add_lt_add ?_ ?_) ?_)
+        <;> apply (Nat.mul_lt_mul_right ?_).mpr
+        <;> assumption
+    _ = (q * r + r * p + p * q) * (a + b + c) := by ring
+    _ ≤ _ := Nat.mul_le_mul_right _ hineq
+
+private lemma derivative_pow_eq_zero_iff {n : ℕ} (chn : ¬ringChar k ∣ n) {a : k[X]}  :
```
[the remark this answers is not in the document]
Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:67]: Maybe put under [Mathlib.Algebra.Polynomial.Derivative](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/Algebra/Polynomial/Derivative.lean)? Also, I have no idea which one is more idiomatic honestly.

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 20]
```diff
@@ -0,0 +1,332 @@
...
+    derivative (a ^ n) = 0 ↔ derivative a = 0 := by
+  constructor
+  · intro apd
+    rw [derivative_pow, C_eq_natCast, mul_eq_zero, mul_eq_zero] at apd
+    rcases apd with (nz | powz) | goal
+    · rw [← C_eq_natCast, C_eq_zero] at nz
+      exact (chn (ringChar.dvd nz)).elim
```
[the remark this answers is not in the document]
Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:74]: I see, then I'll replace those 👍

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 21]
```diff
@@ -0,0 +1,332 @@
...
+      a = expand k (ringChar k) ca ∧
+      a.natDegree = ca.natDegree * ringChar k := by
+  have heq := (expand_contract (ringChar k) hda chn0).symm
+  refine ⟨contract (ringChar k) a, ?_, heq, ?_⟩
+  · intro h
+    rw [h, map_zero] at heq
+    exact ha heq
+  · rw [← natDegree_expand, ← heq]
+
+private theorem expand_dvd {a b : k[X]} (n : ℕ) (h : a ∣ b) :
```
[the remark this answers is not in the document]
Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:164]: Made this and `is_coprime_of_expand` as another PR #20143

File: Mathlib/NumberTheory/FLT/Polynomial.lean (hunk 8 above)
Comment (jcpaik) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:214]: @seewoo5 Can I handle this?

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 22]
```diff
@@ -0,0 +1,321 @@
...
+  rw [FermatLastTheoremWith']
+  intros a b c ha hb hc heq
+  obtain ⟨a', eq_a⟩ := gcd_dvd_left a b
+  obtain ⟨b', eq_b⟩ := gcd_dvd_right a b
+  set d := gcd a b
+  have hd : d ≠ 0 := gcd_ne_zero_of_left ha
+  rw [eq_a, eq_b, mul_pow, mul_pow, ← mul_add] at heq
+  have hdc : d ∣ c := by
+    have hn : 0 < n := by omega
+    have hdncn : d^n ∣ c^n := ⟨_, heq.symm⟩
```
Comment (tb65536) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:292]:
```suggestion
    have hdncn : d ^ n ∣ c ^ n := ⟨_, heq.symm⟩
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean (hunk 19 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:68]: Can you merge master and deduplicate this lemma?

File: Mathlib/NumberTheory/FLT/Polynomial.lean (hunk 20 above)
[the remark this answers is not in the document]
Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/Polynomial.lean]: All replaced!

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 23]
```diff
@@ -0,0 +1,277 @@
...
+  have heq := (expand_contract (ringChar k) hda chn0).symm
+  refine ⟨contract (ringChar k) a, ?_, heq, ?_⟩
+  · intro h
+    rw [h, map_zero] at heq
+    exact ha heq
+  · rw [← natDegree_expand, ← heq]
+
+variable [DecidableEq k]
+
+theorem Polynomial.flt_catalan_aux
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:141]:
```suggestion
private theorem Polynomial.flt_catalan_aux
```
or rename it to something that doesn't contain `_aux`

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 24]
```diff
@@ -0,0 +1,277 @@
...
+        have hch2 : 2 ≤ ch := by omega
+        rw [← add_le_add_iff_right 1, ← eq_d, eq_deg_a]
+        refine le_trans ?_ (Nat.mul_le_mul_left _ hch2)
+        omega
+      · rw [eq_a, eq_b, eq_c, ← expand_C ch u, ← expand_C ch v, ← expand_C ch w] at heq
+        simp_rw [← map_pow, ← map_mul, ← map_add] at heq
+        rwa [Polynomial.expand_eq_zero (zero_lt_iff.mpr chn0)] at heq
+
+-- Nonsolvability of Fermat-Catalan equation.
+theorem Polynomial.flt_catalan
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:193]:
```suggestion
/-- Nonsolvability of the Fermat-Catalan equation. -/
theorem Polynomial.flt_catalan
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 25]
```diff
@@ -0,0 +1,277 @@
...
+    rw [mul_rotate] at hineq
+    apply flt_catalan_aux heq <;> assumption
+  · rw [← add_rotate] at heq hineq
+    rw [← mul_rotate] at hineq
+    apply flt_catalan_aux heq <;> assumption
+
+/- FLT is special case of nonsolvability of Fermat-Catalan equation.
+Take p = q = r = n and u = v = 1, w = -1.
+-/
+theorem Polynomial.flt
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:220]: Did you mean this to be a docstring?

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 26]
```diff
@@ -0,0 +1,277 @@
...
+  have hone : (1 : k[X]) = C 1 := by rfl
+  have hneg_one : (-1 : k[X]) = C (-1) := by simp only [map_neg, map_one]
+  simp_rw [hneg_one, hone] at heq
+  apply flt_catalan hn' hn' hn' _
+    chn chn chn ha hb hc hab one_ne_zero one_ne_zero (neg_ne_zero.mpr one_ne_zero) heq
+  have eq_lhs : n * n + n * n + n * n = 3 * n * n := by ring
+  rw [eq_lhs, mul_assoc, mul_assoc]
+  exact Nat.mul_le_mul_right (n * n) hn
+
+theorem fermatLastTheoremPolynomial {n : ℕ} (hn : 3 ≤ n) (chn : (n : k) ≠ 0):
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:237]:
```suggestion
theorem fermatLastTheoremWith'_polynomial {n : ℕ} (hn : 3 ≤ n) (chn : (n : k) ≠ 0) :
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean (hunk 25 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:220]: Yes, would it be better to put on the top of the file?

Comment (YaelDillies) [reply Mathlib/NumberTheory/FLT/Polynomial.lean:220]: Maybe yeah

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 27]
```diff
@@ -21,6 +21,7 @@ More generally, we can prove non-solvability of the Fermat-Catalan equation: the
 non-constant polynomial solution of the equation `u * a ^ p + v * b ^ q + w * c ^ r = 0`, where
 `p, q, r ≥ 3` with `p * q + q * r + r * p ≤ p * q * r` and not divisible by `char k`
 and `u, v, w` are nonzero elements in `k`.
+FLT is special case when `p = q = r = n`, `u = v = 1`, and `w = -1`.
```
Comment (YaelDillies) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:24]:
```suggestion
FLT is the special case where `p = q = r = n`, `u = v = 1`, and `w = -1`.
```

**Comment by YaelDillies** [comment]
Looks good to me! @kbuzzard ?

maintainer mege

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 28]
```diff
@@ -0,0 +1,275 @@
...
+/-!
+# Fermat's Last Theorem for polynomials over a field
+
+This file states and proves the Fermat's Last Theorem for polynomials over a field.
+For `n ≥ 3` not divisible by the characteristic of the coefficient field `k` and (pairwise) nonzero
+coprime polynomials `a, b, c` (over a field) with `a ^ n + b ^ n = c ^ n`,
+all polynomials must be constants.
+
+More generally, we can prove non-solvability of the Fermat-Catalan equation: there are no
+non-constant polynomial solution of the equation `u * a ^ p + v * b ^ q + w * c ^ r = 0`, where
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:21]:
```suggestion
non-constant polynomial solutions to the equation `u * a ^ p + v * b ^ q + w * c ^ r = 0`, where
```

File: Mathlib/NumberTheory/FLT/Polynomial.lean [hunk 29]
```diff
@@ -0,0 +1,275 @@
...
+`p, q, r ≥ 3` with `p * q + q * r + r * p ≤ p * q * r` and not divisible by `char k`
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/FLT/Polynomial.lean:22]:
```suggestion
`p, q, r ≥ 3` with `p * q + q * r + r * p ≤ p * q * r` , `p, q, r` not divisible by `char k`,
```

**Review by kbuzzard — APPROVED** [review]
A couple more docstring nits. Thanks a lot!

bors d+

**Comment by seewoo5** [comment]
Thank you all!

bors r+
